US09303020B2
Preparation of methyl 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoate.
A mixture of 2-(4-fluorophenyl)-6-nitro-3-(1-((trifluoromethyl)sulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl trifluoromethanesulfonate (500 mg, 0.829 mmol), methyl 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (290 mg, 0.994 mmol), potassium phosphate (352 mg, 1.657 mmol) in a mixture of dioxane (40 mL)/water (4 mL) in a pressure tube at rt was degassed, and then added with PdCl2(dppf)-CH2Cl2 adduct (67.7 mg, 0.083 mmol). The reaction mixture was heated to 100° C. and maintained at the same temperature overnight. The reaction mixture was filtered through celite, and the celite bed washed with EtOAc. The filtrate was concentrated, and the residue was purified by Combiflash using a mixture of petroleum ether and EtOAc as an eluant and a 40 g silica column. The title compound was collected at 70% EtOAc in pet. ether. Yield: 375 mg (93%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 12.52 (br s, 1H) 8.52 (s, 1H) 8.10-8.20 (m, 1H) 7.58-7.82 (m, 2H) 7.56 (dd, J=8.53, 2.51 Hz, 1H) 7.36-7.47 (m, 4H) 7.18-7.32 (m, 2H) 3.89 (s, 3H) 3.80 (s, 3H); LCMS: (ES−) m/z=486.0 (M−H); Column—Acentis Express C8 (50×2.1 mm; 2.7 u); M phase A: 10 mM Ammonium Formate in Water:MeCN (90:10); M phase B: 10 mM Ammonium Formate in Water:MeCN (10:90)

reactant | 2-(4-fluorophenyl)-6-nitro-3-(1-((trifluoromethyl)sulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl trifluoromethanesulfonate | 0.829 mmol, 500 mg | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2N(C=CN2)S(=O)(=O)C(F)(F)F)C1)[N+](=O)[O-])(F)F | C19H8F7N3O8S2
reactant | methyl 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.994 mmol, 290 mg | COC1=C(C(=O)OC)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO5
reactant | potassium phosphate | 1.657 mmol, 352 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 4 mL | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.083 mmol, 67.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 5-(2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-yl)-2-methoxybenzoate | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])C=2C=CC(=C(C(=O)OC)C2)OC | C26H18FN3O6
